US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2,2-DIMETHYLPROPANAMIDE
Example 18 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2,2-dimethylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.51–7.41 (s, 1H), 7.34–7.10 (m, 13H), 6.99–6.80 (m, 2H), 4.81 (s, 1H), 3.40–3.26 (m, 2H), 2.96–2.78 (m, 2H), 2.50–2.25 (m, 3H), 1.98–1.82 (m, 2H), 1.79–1.68 (m, 2H), 1.68–1.45 (m, 4H), 1.23 (s, 9H); ESMS m/e: 512.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2,2-dimethylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)(C)C)=O | C19H31N3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)PHENYL]-2,2-DIMETHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C33H41N3O2
